US05877221
(rac), (cis)-2-Methyl-N-acetyl-1-aminoindan
To a solution of Ac2O (1.45 g, 14.2 mmole) in toluene (12 ml), was added dropwise a solution of (rac), (cis)-2-methyl-1-aminoindan (Ex. 39, 1.85 g, 12.6 mmole). The mixture was heated at 90° C. for 15 min, cooled to 70° C., and a solution of 1.1 g KOH in 8.3 ml water was added. The reaction mixture was stirred at ambient temperature for 2 hrs; the solid was collected by filtration, washed with toluene (10 ml), dried and crystallized from hexane:EtOAc, to give 1.85 g (9.8 mmole, 78%), mp: 146°-7° C.

reactant | Ac2O | 14.2 mmole, 1.45 g | CC(=O)OC(=O)C | C4H6O3
reactant | (cis)-2-methyl-1-aminoindan | 12.6 mmole, 1.85 g | C[C@@H]1[C@@H](C2=CC=CC=C2C1)N | C10H13N
reactant | KOH | 1.1 g | [OH-].[K+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 8.3 ml | O | H2O
product | (cis)-2-Methyl-N-acetyl-1-aminoindan | C[C@@H]1[C@@H](C2=CC=CC=C2C1)NC(C)=O | C12H15NO
